US06291455B1
A mixture of 4-chloro-6,7-dimethoxyquinazoline hydrochloride (130 mg, 0.5 mmol), (prepared as described for the starting material in Example 2), and 3-hydroxy-4-methylaniline (62 mg, 0.5 mmol) in isopropanol (7 ml) was heated at reflux for 2 hours. The mixture was allowed to cool to ambient temperature, the precipitated solid was collected by filtration, washed with isopropanol and ether and dried to give 6,7-dimethoxy-4-(3-hydroxy-4-methylanilino)quinazoline hydrochloride (98 mg, 56%) as an off-white solid.

reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | 0.5 mmol, 130 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | 3-hydroxy-4-methylaniline | 0.5 mmol, 62 mg | OC=1C=C(N)C=CC1C | C7H9NO
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 6,7-dimethoxy-4-(3-hydroxy-4-methylanilino)quinazoline hydrochloride | 98 mg, 56% | Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)C)O | InChI=1S/C17H17N3O3.ClH/c1-10-4-5-11(6-14(10)21)20-17-12-7-15(22-2)16(23-3)8-13(12)18-9-19-17;/h4-9,21H,1-3H3,(H,18,19,20);1H
